US05891909
c) 3-[3-(3-Fluorophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde
A solution of 3-[3-(3-fluorophenylsulfonyloxy)-5-methylphenoxy]-propanol (840 mg, 2.5 mmol, as prepared in the preceding step), N,N-diisopropylethylamine (0.90 mL, 25.2 mmol), anhydrous dimethyl sulfoxide (0.52 mL, 27.4 mmol), and anhydrous dichloromethane (25.9 mL) was cooled to 0° C. under nitrogen. Sulfur trioxide pyridine complex (830 mg, 5.2 mmol) was added in portions over 13 minutes. The solution was stirred at 0° C. for 2.75 hours, then the reaction was quenched with 10% aqueous citric acid (60 mL). Diethyl ether (60 mL) was added, and the mixture was extracted. The aqueous layer was extracted with diethyl ether (30 mL), and the combined organic layers were washed with 5% aqueous citric acid (100 mL). The aqueous layer was extracted with diethyl ether (30 mL), and the combined organic layers were washed with pH 7 buffer (50 mL) and brine (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to an oil. The crude product was purified by flash column chromatography through silica gel (40% diethyl ether in hexane) to give the title compound as a pale yellow oil (468 mg, 56%). 1H-NMR (300 MHz, CDCl3) δ 9.84 (t, 1H, J=1.4 Hz), 7.51-7.68 (m, 3H), 7.35-7.42 (m, 1H), 6.63 (br s, 1H), 6.44 (br s, 1H), 6.37 (br t, 1H, J=2.2 Hz), 4.20 (t, 2H, J=6.1 Hz), 2.87 (td, 2H, J=1.4, 6.1 Hz), 2.26 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C16H15FO5S: 361.1 (M+Na). Found: 361.3.

reactant | 3-[3-(3-fluorophenylsulfonyloxy)-5-methylphenoxy]-propanol | FC=1C=C(C=CC1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C16H17FO5S
reactant | N,N-diisopropylethylamine | 25.2 mmol, 0.90 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 27.4 mmol, 0.52 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 25.9 mL | ClCCl | CH2Cl2
product | 3-[3-(3-Fluorophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | 468 mg, 56% | FC=1C=C(C=CC1)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C16H15FO5S
